US06762205B1
32 mg of 4-formylphenyl sulfamate was added to a mixture composed of 11.5 μl of aniline, 0.2 ml of ethanol, 27 mg of sodium acetate, 84 μl of acetic acid, and 0.25 ml of water, and dissolved therein by heating. The resulting mixture was cooled with ice, and 20 mg of sodium borohydride was slowly added thereto. After the reaction mixture was stirred at room temperature for 10 minutes, a saturated aqueous solution of sodium hydrogen carbonate was added thereto, and the product was extracted with ethyl acetate. After the organic layer was washed with water and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The resulting crude product was purified by TLC (using a 9:1 mixture of chloroform and methanol as the developing solvent) to obtain 27 mg of 4-N-phenylaminomethyl)phenyl sulfamate.

reactant | 4-formylphenyl sulfamate | 32 mg | S(N)(OC1=CC=C(C=C1)C=O)(=O)=O | C7H7NO4S
reactant | aniline | 11.5 μl | NC1=CC=CC=C1 | C6H7N
reactant | sodium acetate | 27 mg | C(C)(=O)[O-].[Na+]
reactant | sodium borohydride | 20 mg | [BH4-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 0.25 ml | O | H2O
solvent | acetic acid | 84 μl | C(C)(=O)O | C2H4O2
solvent | ethanol | 0.2 ml | C(C)O | C2H6O
product | phenyl sulfamate | S(N)(OC1=CC=CC=C1)(=O)=O | C6H7NO3S
